US05463073
Methyl 4-methyl-1-[[2'-(1H-tetrazol-5-yl}biphenyl-4-yl]methyl]thieno[3,4-d]imidazole-6-carboxylate
To a solution of methyl 4-methylthieno[3,4-d]-imidazole-6-carboxylate (0.20 g) in DMF (2 ml) was added sodium hydride (60% oil, 48 mg) under ice-cooling. The mixture was stirred for 15 minutes, and there which was added 4-[2'-(N-trityltetrazol-5-yl)phenyl]benzylbromide (0.68 g), followed by stirring for one hour at room temperature. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The concentrate was purified by silica gel column chromatography to give the first fraction and the second fraction. The oily substance obtained from the first fraction was dissolved in chloroform (3 ml) - methanol (12 ml), to which was added 1N-HC1 (0.5 ml), and the mixture was stirred for one hour at room temperature. The solvent was evaporated in vacuo. To the residue was added water, whose pH was adjusted to 3-4 with 1N NaOH, followed by extraction with chloroform. The extract was washed with water, dried and concentrated to dryness. The concentrate was purified by silica gel column chromatography. The crystals thus obtained were recrystallized from ethyl acetate -hexane to afford colorless needles (0.12 g, 28%), m.p. 188°-189° C.

reactant | methyl 4-methylthieno[3,4-d]-imidazole-6-carboxylate | 0.20 g | CC=1SC(=C2N=CNC21)C(=O)OC | C8H8N2O2S
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | 4-[2'-(N-trityltetrazol-5-yl)phenyl]benzylbromide | 0.68 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 12 ml | CO | CH4O
product | Methyl 4-methyl-1-[[2'-(1H-tetrazol-5-yl}biphenyl-4-yl]methyl]thieno[3,4-d]imidazole-6-carboxylate | 0.12 g, 28% | CC=1SC(=C2N(C=NC21)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C(=O)OC | C22H18N6O2S
